US08957074B2
To a solution of 1,7-diazaspiro[4,4]nonan-6-one hydrochloride (0.98 g, 5.4 mmol) in dichloromethane were added tert-butyldicarbonate (1.41 g, 6.48 mmol) and triethylamine (1.3 g, 13.5 mmol). The resulting solution was stirred overnight at room temperature. The solution was diluted with water and extracted with dichloromethane. The organic phase was separated, dried, filtered and concentrated to afford 6-oxo-1,7-diaza-spiro[4,4]nonan-1-carboxylic acid tert-butyl ester product as white powder (1.3 g) in 100% yield and used directly without further purification. 1H NMR (400 MHz, CD2Cl2) δ 6.13-5.74 (br, 1H), 3.59-3.20 (m, 4H), 2.75-2.49 (m, 1H), 2.16-1.76 (m, 5H), 1.43 (s, 3H), 1.42 (s, 6H). MS m/z 241.2 (M+H)+

reactant | 1,7-diazaspiro[4,4]nonan-6-one hydrochloride | 5.4 mmol, 0.98 g | Cl.N1CCCC12C(NCC2)=O
reactant | tert-butyldicarbonate | 6.48 mmol, 1.41 g | C(C)(C)(C)OC(=O)OC(=O)[O-]
reactant | triethylamine | 13.5 mmol, 1.3 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 6-oxo-1,7-diaza-spiro[4,4]nonan-1-carboxylic acid tert-butyl ester | 1.3 g, 100% yield | C(C)(C)(C)OC(=O)N1CCCC12C(NCC2)=O | C12H20N2O3
